US09102673B2
Step 1: Ethyl 5-bromo-1-{2-[4-(trifluoromethoxy)phenoxy]ethyl}-1H-indole-2-carboxylate
To a solution of ethyl 5-bromo-1H-indole-2-carboxylate (1.7 g, 6.3 mmol), 2-[4-(trifluoromethoxy)phenoxy]ethanol (1.7 g, 7.6 mmol) and triphenylphosphine (3.3 g, 12.7 mmol) in toluene (20 ml) was added DIAD (1.85 ml, 9.5 mmol) dropwise at 0° C. The mixture was left to warm up to RT and stirred overnight. The mixture was then concentrated in vacuo. The residue was purified on silica gel (0-20% EtOAc in hexanes) to yield the title product (1.6 g).

reactant | ethyl 5-bromo-1H-indole-2-carboxylate | 6.3 mmol, 1.7 g | BrC=1C=C2C=C(NC2=CC1)C(=O)OCC | C11H10BrNO2
reactant | 2-[4-(trifluoromethoxy)phenoxy]ethanol | 7.6 mmol, 1.7 g | FC(OC1=CC=C(OCCO)C=C1)(F)F | C9H9F3O3
reactant | triphenylphosphine | 12.7 mmol, 3.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 9.5 mmol, 1.85 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 5-bromo-1-{2-[4-(trifluoromethoxy)phenoxy]ethyl}-1H-indole-2-carboxylate | 1.6 g | BrC=1C=C2C=C(N(C2=CC1)CCOC1=CC=C(C=C1)OC(F)(F)F)C(=O)OCC | C20H17BrF3NO4
